.SUBCKT ngb18n40clb 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Aug 24, 05
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=1.01292 KP=0.303618 LAMBDA=0 CGSO=7.68794e-06
RD 7 9 0.012363
RS 4 8 0.0155196
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1.77425e-14 BF=102.81 NF=0.85 VAF=20637.2
+IKF=30098.4 ISE=2.12271e-10 NE=1.39456 BR=0.584963
+NR=1.5 VAR=477.041 IKR=999.093 ISC=1.04055e-11
+NC=1.52303 RB=1.13611 IRB=38142.5 RBM=1.13611
+RE=1e-08 RC=0.00414493 XTB=1.98482e-13 XTI=0
+EG=0.5 CJC=9.06863e-10 VJC=0.4 MJC=0.619826
+CJE=1.81373e-08 VJE=0.4 MJE=0.9 TF=8.7622e-09
RDS 7 4 1e8
RER 4 3 0.0266736
RG 6 2 1.94
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=3.18827e-11 VJ=0.4 M=0.387148 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 3.18827e-11
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS ngb18n40clb

