.SUBCKT ngd15n41cl 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Oct 12, 05
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=1.86479 KP=3.6009 LAMBDA=5.04514 CGSO=6.18835e-06
RD 7 9 1e-06
RS 4 8 0.00781762
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=9.29612e-16 BF=1 NF=0.85 VAF=1348.2
+IKF=10902.9 ISE=1.42134e-10 NE=1.18093 BR=0.840454
+NR=0.75 VAR=203.292 IKR=999.749 ISC=1.0451e-11
+NC=1 RB=0.501438 IRB=0.214972 RBM=1e-05
+RE=1e-08 RC=0.000330734 XTB=0 XTI=2.75731
+EG=0.5 CJC=1.14718e-09 VJC=0.4 MJC=0.654867
+CJE=2.29435e-08 VJE=0.4 MJE=0.9 TF=3.17094e-07
RDS 7 4 1e8
RER 4 3 0.0193452
RG 6 2 1.95863
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.91044e-11 VJ=0.4 M=0.34799 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1.70538e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS ngd15n41cl

