.SUBCKT ngtb15n60s1e 1 2 3
*Node 1 -> c
*Node 2 -> g
*Node 3 -> e
x1 1  2  3  ngtb15n60s1e_igbt
x2 3  1  ngtb15n60s1_diode
.ENDS ngtb15n60s1e 
*
.SUBCKT ngtb15n60s1e_igbt 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Feb 15, 12
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=7.33818 KP=0.913937 LAMBDA=0 CGSO=2.01084e-05
RD 7 9 0.000863041
RS 4 8 0.000998124
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=7.03639e-17 BF=17.4008 NF=0.85 VAF=259.844
+IKF=299.588 ISE=9.93027e-12 NE=2.06339 BR=0.96404
+NR=0.75 VAR=101.143 IKR=999.911 ISC=1.00015e-11
+NC=2.00382 RB=0.0001 IRB=997.628 RBM=0.0001
+RE=1e-08 RC=0.00100464 XTB=4.93849e-17 XTI=3.00295
+EG=1.2 CJC=2.20296e-10 VJC=0.4 MJC=0.597653
+CJE=4.40592e-09 VJE=0.4 MJE=0.9 TF=9.99955e-10
RDS 7 4 1e8
RER 4 3 0.0235108
RG 6 2 2
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=3.7209e-10 VJ=0.4 M=0.510994 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 9.56542e-08
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS ngtb15n60s1e_igbt
*
.SUBCKT ngtb15n60s1_diode 11 16
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 12, 12
* MODEL FORMAT: SPICE3
rs 11 12 0.0131552
vdsense 13 1 0
b9 12 13 v=4.7136*i(vdsense)/(1e+10*v(3)+0.0047136)
r9 12 13 1e12
b1 1 16 i=v(7)+v(8)
rdc2 2 0 1e12
e2 22 0 1 16 0.5
vqe 22 23 0
dqe 23 0 dqemod
.model dqemod d (is=3.36599e-08 n=1.41737 eg=0.6 xti=0.5)
h2 2 0 vqe 6.367e-07
c3 3 0 100u
rdc3 3 0 1e12
d3 0 3 dqmod
.model dqmod d
vsense 4 5 0
f3 3 0 vsense 1
rdc6 6 0 1e12
b6 6 0 v=5.63058e+07*v(3)
b4 4 0 v=v(6)-5.47352e+07*v(2)
r5 5 0 10K
rdc7 7 0 1e12
b7 7 0 v=5.47352e+07*(v(2)-v(3))
rdc8 8 0 1e12
e8 88 0 1 16 1
vie 88 89 0
die 89 0 diomod
.model diomod d (is=4.18923e-25)
h8 8 0 vie 1
dcj 12 16 dmod
.model dmod d(is=1e-25 n=10
+ cjo=3.12518e-11 vj=1.5 m=0.393525)
.ends ngtb15n60s1_diode

